US04217292
Melaminium heptamolybdate was prepared as follows, 10.00 grams of melamine, 11.41 grams of molybdenum trioxide, 7.86 grams of ammonium sulfate and 300 milliliters of water were added to a 500 milliliter round-bottom flask equipped with a water-cooled condenser.

reactant | melamine | 10.00 grams | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | molybdenum trioxide | 11.41 grams | [Mo](=O)(=O)=O
reactant | ammonium sulfate | 7.86 grams | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | O | H2O
solvent | water | 300 milliliters | O | H2O
product | heptamolybdate | yield of 93.29 percent | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo] | InChI=1S/7Mo.24O/q;;;;;;;24*-2
